US05948782
A mixture of propyl 2-bromomethyl-6,7-dimethoxy-4- (3,4-dimethoxyphenyl)quinoline-3-carboxylate (3.3 g), 2-mercapto-1-methylimidazole (821 mg), potassium carbonate (1.08 g) and N,N-dimethylformamide (60 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), and the solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with chloroform/ethyl acetate (7:3, v/v), propyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2- [(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate (1.77 g, 51%) was obtained and recrystallized from acetone/isopropyl ether.

reactant | propyl 2-bromomethyl-6,7-dimethoxy-4- (3,4-dimethoxyphenyl)quinoline-3-carboxylate | 3.3 g | BrCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C24H26BrNO6
reactant | 2-mercapto-1-methylimidazole | 821 mg | SC=1N(C=CN1)C | C4H6N2S
reactant | potassium carbonate | 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | propyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2- [(1-methylimidazol-2-yl)thiomethyl]quinoline-3-carboxylate | 1.77 g, 51% | COC=1C=C2C(=C(C(=NC2=CC1OC)CSC=1N(C=CN1)C)C(=O)OCCC)C1=CC(=C(C=C1)OC)OC | C28H31N3O6S
